US08859732B2
4-Hydroxy-2-methoxybenzaldehyde (136 mg, 894 μmol) was dissolved in DMF (10 ml), 1-[3-iodo-2,2-bis(octadecyloxymethyl)propoxy]octadecane (600 mg, 598 μmol) and potassium carbonate (165 mg, 1.19 mmol) were added, and the mixture was stirred at 130° C. for 3 days. The reaction mixture was cooled to room temperature, 1N hydrochloric acid (10 ml) and chloroform (10 ml) were added, and the mixture was stirred. The aqueous layer was removed, and the organic layer was further washed twice with purified water (10 ml). The organic layer was evaporated under reduced pressure, and the residue was precipitated with methanol to give crude crystals of 2-methoxy-4-[2′,2′,2′-tris(octadecyloxymethyl)ethoxy]benzaldehyde (592 mg, 96%). The obtained crude crystals were purified by silica gel column chromatography (chloroform-hexane=2:1-chloroform→hexane-ethyl acetate=10:1).

reactant | 4-Hydroxy-2-methoxybenzaldehyde | 894 μmol, 136 mg | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | 1-[3-iodo-2,2-bis(octadecyloxymethyl)propoxy]octadecane | 598 μmol, 600 mg | ICC(COCCCCCCCCCCCCCCCCCC)(COCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCC | C59H119IO3
reactant | potassium carbonate | 1.19 mmol, 165 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-methoxy-4-[2′,2′,2′-tris(octadecyloxymethyl)ethoxy]benzaldehyde | 592 mg, 96% | COC1=C(C=O)C=CC(=C1)OCC(COCCCCCCCCCCCCCCCCCC)(COCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCC | C67H126O6
